US04113940
Acetic acid (1 ml) and zinc powder (2.0 g) were added under ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (1.53 g) in dimethylformamide (10 ml) and the mixture was stirred for 1 hour at -5° to 0° C., after which the reaction mixture was filtered. The filtered zinc powder was washed with dimethylformamide and the filtrate and the washings were combined, after which a few mls. of water was added to the solution. The precipitated crystals were collected by filtration and dissolved in a small amount of a sodium bicarbonate aqueous solution and then the insoluble material was filtered off. The filtrate was adjusted to pH4 with 10% hydrochloric acid and the precipitated crystals were collected by filtration, washed with water and acetone and dried to give 2-methyl-7-amino-3-cephem-4-carboxylic acid (0.38 g), mp 222° C. (dec.).

reactant | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 1.53 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 2.0 g | [Zn] | Zn
product | 2-methyl-7-amino-3-cephem-4-carboxylic acid | 0.38 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2N)=O | C8H10N2O3S
